US07417043B2
4-(3-Trifluoromethylsulfonylphenyl)-Pyridine (0.3 g) was dissolved in 1-iodo-propane (2 ml) and heated to 100° C. for 2 h. Then the voilatiles were evaporated and the residue redissolved in abs EtOH (20 ml) and NaBH4 (340 mg) was added portions wise at −20° C. The mixture was then allowed to reach r.t. and stirred over night. To the mixture was added 10% Na2CO3 solution (20 ml). The aqueous layer was extracted with CH2Cl2 and the combined organic phases were dried (MgSO4), filtered and evaporated to dryness. The crude product was purified by flash chromatography (MeOH:CH2Cl2 (1:9 (v/v)). Collection of the fractions containing pure product and evaporation of the solvent afforded pure 1-propyl-4-(3-trifluoromethylsulfonylphenyl)-1,2,3,6-tetrahydropyridine (150 mg). MS m/z (rel. intensity, 70 eV) 333 (M+, 21), 305 (16), 304 (bp), 171 (14), 128 (14). Rf 0.55 (MeOH)

reactant | 4-(3-Trifluoromethylsulfonylphenyl)-Pyridine | 0.3 g | FC(S(=O)(=O)C=1C=C(C=CC1)C1=CC=NC=C1)(F)F | C12H8F3NO2S
reactant | 1-iodo-propane | 2 ml | ICCC | C3H7I
product | 1-propyl-4-(3-trifluoromethylsulfonylphenyl)-1,2,3,6-tetrahydropyridine | 150 mg | C(CC)N1CCC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C(F)(F)F | C15H18F3NO2S
